US07186724B2
31e: Preparation of 4-(5-methoxymethyl-thieno[2,3-d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester:
Add cesium carbonate (1.13 g, 3.46 mmol, 1.50 equivalents) and copper iodide (44 mg, 0.23 mmol, 0.10 equivalents) to a stirred solution of 4-[1-(3-bromo-5-methoxymethyl-thiophen-2-yl)-1-hydroxyimino-methyl]-piperidine-1-carboxylic acid tert-butyl ester (1.00 g, 2.31 mmol, 1.00 equivalents) in 2-methoxy ethanol (23.30 mL). Stir the resulting mixture at room temperature overnight or up to 3 days and filter through celite. Evaporate the filtrate, partition the residue between ethyl acetate (70 mL) and water (23 mL) and separate. Extract the aqueous layer with ethyl acetate (3×70 mL), combine the organic layers, dry over magnesium sulfate, filter and evaporate. Purify the residue via flash column chromatography eluting with a mixture of hexane: ethyl acetate (4:1) to yield the desired product as a yellow oil. LC/MS (ESI), m/e 375 (MNa+), retention time 1.98 minutes. Condition II.

reactant | cesium carbonate | 3.46 mmol, 1.13 g, 1.50 equivalents | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-[1-(3-bromo-5-methoxymethyl-thiophen-2-yl)-1-hydroxyimino-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 2.31 mmol, 1.00 g, 1.00 equivalents | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=NO)C=1SC(=CC1Br)COC | C17H25BrN2O4S
solvent | 2-methoxy ethanol | 23.30 mL | COCCO | C3H8O2
catalyst | copper iodide | 0.23 mmol, 44 mg, 0.10 equivalents | [Cu](I)I
product | 4-(5-methoxymethyl-thieno[2,3-d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NOC2=C1SC(=C2)COC | C17H24N2O4S
